US06664271B1
Commercially available ethyl 4-piperidone-3-carboxylate hydrochloride (203.2 mg; 0.98 mmol) was suspended in dichloromethane (7 ml), diisopropylethylamine (180 μl; 0.99 mmol) was added, followed by commercially available methyl isocyanate and (57 μl; 0.98 mmol). This mixture was stirred at ambient temperature for approximately 3 hours, and then diluted with fresh dichloromethane and washed with water. The dichloromethane solution was dried with anhydrous potassium carbonate and evaporated at ambient temperature under reduced pressure, giving ethyl 1-(N-methylaminocarbonyl)-4-oxo-3-piperidinecarboxylate (74.4 mg) as a white solid. MS m/z (positive ion) 479 (dimer+Na+; 40), 457 (dimer+; 25), 251 (M+Na+; 100), 229 (MH+; 90), 205 (25), 130 (25).

reactant | ethyl 4-piperidone-3-carboxylate hydrochloride | 0.98 mmol, 203.2 mg | CCOC(=O)C1CNCCC1=O.Cl
reactant | diisopropylethylamine | 0.99 mmol, 180 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | ethyl 1-(N-methylaminocarbonyl)-4-oxo-3-piperidinecarboxylate | 74.4 mg | CNC(=O)N1CC(C(CC1)=O)C(=O)OCC | C10H16N2O4
